US07910561B2
4-[6-(2-Hydroxyethyl)-5-oxo-3-phenyl-5,6-dihydro-1,6-naphthyridin-2-yl]benzaldehyde (4-2)
A solution of 6-(2-hydroxyethyl)-2-[4-(hydroxymethyl)phenyl]-3-phenyl-1,6-naphthyridin-5(6H)-one (35 mg, 0.094 mmol) in a mixture of chloroform (3 mL) and acetonitrile (3 mL) containing a suspension of activated manganese dioxide (230 mg, 2.6 mmol) was warmed at 70° C. for 1.5 hours. This suspension was filtered, rinsed with chloroform and the solvents evaporated. This residue was triturated with diethyl ether and some pure title compound was isolated by filtration. The mother liquors were subjected to column chromatography on silica gel and upon elution with 50-100% ethyl acetate/hexane and then 0.25-0.75% methanol/ethyl acetate additional product was obtained. 1H-NMR (500 MHz, CDCl3): δ 10.02 (1H, s), 8.74 (1H, s), 7.80 (2H, d, J=8 Hz), 7.62 (2H, d, J=8 Hz), 7.44 (1H, d, J=7.6 Hz), 7.27-7.31 (4H, m), 7.20-7.22 (2H, m), 6.89 (1H, d, J=7.5 Hz), 4.25 (2H, t, J=4.8 Hz), 4.04 (2H, br s), 2.56 (1H, br s).

reactant | 6-(2-hydroxyethyl)-2-[4-(hydroxymethyl)phenyl]-3-phenyl-1,6-naphthyridin-5(6H)-one | 0.094 mmol, 35 mg | OCCN1C(C=2C=C(C(=NC2C=C1)C1=CC=C(C=C1)CO)C1=CC=CC=C1)=O | C23H20N2O3
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | manganese dioxide | 2.6 mmol, 230 mg | [O-2].[O-2].[Mn+4]
product | 4-[6-(2-Hydroxyethyl)-5-oxo-3-phenyl-5,6-dihydro-1,6-naphthyridin-2-yl]benzaldehyde | OCCN1C(C=2C=C(C(=NC2C=C1)C1=CC=C(C=O)C=C1)C1=CC=CC=C1)=O | C23H18N2O3
